US05258382
Preparation of 2-ethoxycarbonyl-2-(pyrrol-1-yl)-succinimide:
To a stirred solution of 2-carbamoylmethyl-2-(pyrrol-1-yl)malonic acid diethyl ester (29.0 g) in anhydrous dimethylformamide (30 ml) was added portionwise sodium hydride (63% dispersion in mineral oil, 4.3 g) under ice cooling. The resulting mixture was stirred under ice cooling for 1 hour, poured into 5% hydrochloric acid/ice-water, and extracted with ethyl acetate. The extracts were washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was chromatographed on silica gel using n-hexane/ethyl acetate (2:1) as the eluent. Fractions containing the title compound were pooled and evaporated under reduced pressure to give the title compound (23.0 g, 94.7%) as a colorless oil.

reactant | 2-carbamoylmethyl-2-(pyrrol-1-yl)malonic acid diethyl ester | 29.0 g | C(C)OC(C(C(=O)OCC)(N1C=CC=C1)CC(N)=O)=O | C13H18N2O5
reactant | sodium hydride | 4.3 g | [H-].[Na+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-ethoxycarbonyl-2-(pyrrol-1-yl)-succinimide | 23.0 g, 94.7% | C(C)OC(=O)C1(C(=O)NC(C1)=O)N1C=CC=C1 | C11H12N2O4
